US07163942B2
4-{[(1—Carbamoyl-2-phenyl-ethyl)-(4-chloro-benzenesulfonyl)-amino]-methyl}-benzoic acid methyl ester
To a solution of triphenylphosphine (110 mmg, 0.4 mmol) in 0.7 mL of tetrahydrofuran is added diisopropyl azodicarboxylate (0.08 mL, 0.4 mmol) and the reaction stirred for 30 min. To the reaction is added 0.4 mL of tetrahydrofuran, (2-(4-chloro-benzenesulfonylamino)-3-phenyl-propionamide (75 mg, 0.2 mmol), and methyl-4-hydroxybenzoate (73 mg, 0.4 mmol). The reaction is allowed to warm to room temperature (rt) and stirred overnight. The solvent is removed and the resultant residue purified by silica gel chromatography to provide the title compound. C13 NMR (100 MHz, CDCl3) 35.5, 48.7, 52.4, 61.4, 127.1, 128.8, 128.9, 129.0, 129.3, 129.6, 129.9, 136.8, 138.1, 139.8, 141.7, 166.9, 171.0. MS 487.1 m/z (M+1).

reactant | triphenylphosphine | 0.4 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.4 mmol, 0.08 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2-(4-chloro-benzenesulfonylamino)-3-phenyl-propionamide | 0.2 mmol, 75 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)N)CC1=CC=CC=C1 | C15H15ClN2O3S
reactant | methyl-4-hydroxybenzoate | 0.4 mmol, 73 mg | COC(C1=CC=C(C=C1)O)=O | C8H8O3
solvent | tetrahydrofuran | 0.7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.4 mL | O1CCCC1 | C4H8O
product | 4-{[(1—Carbamoyl-2-phenyl-ethyl)-(4-chloro-benzenesulfonyl)-amino]-methyl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN(S(=O)(=O)C1=CC=C(C=C1)Cl)C(CC1=CC=CC=C1)C(N)=O)=O | C24H23ClN2O5S
